US05364844
3-[2(S)-Benzyl-4-pentenoyl]-4(S)-isopropyl-2-oxazolidinone
8.61 ml (13.8 mmoles) of butyllithium (as a 1.6M hexane solution) were added dropwise, at -78° C. and under an atmosphere of nitrogen, to a solution of 1.93 ml (13.8 mmoles) of diisopropylamine in 20 ml of anhydrous tetrahydrofuran. The mixture was stirred for 30 minutes, and then a solution of 3.00 mg (11.5 mmoles) of 4(S)-isopropyl-3-(3-phenylpropionyl)-2-oxazolidinone (prepared as described in Preparation 16) in 10 ml of anhydrous tetrahydrofuran was added dropwise thereto, and the mixture was stirred for 1 hour. At the end of this time, 2.99 ml (34.6 mmoles) of allyl bromide were added to the mixture, and the mixture was stirred for 12 hours, whilst allowing it to return gradually to room temperature. A saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (using a 5:1 by volume mixture of hexane and ethyl acetate as eluent), to give 2.14 g (yield 62%) of the title compound as a colorless oily substance.

reactant | butyllithium | 13.8 mmoles, 8.61 ml | C(CCC)[Li]
reactant | diisopropylamine | 13.8 mmoles, 1.93 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4(S)-isopropyl-3-(3-phenylpropionyl)-2-oxazolidinone | 11.5 mmoles, 3.00 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C(CCC1=CC=CC=C1)=O | C15H19NO3
reactant | allyl bromide | 34.6 mmoles, 2.99 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 3-[2(S)-Benzyl-4-pentenoyl]-4(S)-isopropyl-2-oxazolidinone | 2.14 g, yield 62% | C(C1=CC=CC=C1)[C@@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC=C | C18H23NO3
